US04260623
The hexahydro-1'-(cyclopropylcarbonyl)-1-phenylspiro[3H-oxazolo[3,4-a]pyridine-3,4'-pipridine] used as the starting material in the above procedure can be prepared by the following procedure. Cyclopropanecarboxylic acid chloride, 2 g, is added dropwise to a stirred solution of 4 g of hexahydro-1-phenylspiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] and 2.8 ml of triethylamine in 100 ml of methylene dichloride at 50° C. the reaction mixture is allowed to stand at room temperature overnight and then stirred with 75 ml of water. The organic layer is separated, washed with a saturated aqueous solution of sodium bicarbonate, dried over magnesium sulfate and evaporated to dryness. The residual oil is crystallized from 30 ml of cyclohexane to obtain 4.2 g of hexahydro-1'-(cyclopropylcarbonyl)-1-phenylspiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine]; mp 110°-114° C.

reactant | Cyclopropanecarboxylic acid chloride | C1(CC1)C(=O)Cl | C4H5ClO
reactant | hexahydro-1-phenylspiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] | 4 g | C1(=CC=CC=C1)C1OC2(CCNCC2)N2C1CCCC2 | C17H24N2O
reactant | triethylamine | 2.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | 75 ml | O | H2O
solvent | methylene dichloride | 100 ml | C(Cl)Cl | CH2Cl2
product | hexahydro-1'-(cyclopropylcarbonyl)-1-phenylspiro[3H-oxazolo[3,4-a]pyridine-3,4'-piperidine] | 4.2 g | C1(CC1)C(=O)N1CCC2(CC1)OC(C1N2CCCC1)C1=CC=CC=C1 | C21H28N2O2
